US05679683
NaBH 4 (0.50 g, 0.013 mmol) is added to a vigorously stirred suspension of 5,5'-dithiobis(4-amino-2-nitrobenzamide) (3.00 g, 7.13 mmol) in MeOH (60 mL). After 10 min the solution is acidified with concentrated HCl, extracted with EtOAc, and worked up rapidly to give 4-amino-5-mercapto-2-nitrobenzamide as an unstable solid which is used directly. The crude material is dissolved in formic acid (50 mL) heated under gentle reflux for 2 h, and then concentrated to dryness. The residue is triturated with MeOH/EtOAc (1:19), and unreacted disulfide (1.41 g) is recovered by filtration. The filtrate is concentrated and chromatographed on silica. Elution with EtoAc/petroleum ether (4:1) gives foreruns, while EtOAc gives 5-nitrobenzothiazole-6-carboxamide (1.31g, 41%) as a yellow powder. 1H NMR (DMSO) δ9.70 (1H, s), 8.71 (1H, s), 8.52 (1H, s), 8.25 (1H, brs), 7.78 (1H, brs).

reactant | 5,5'-dithiobis(4-amino-2-nitrobenzamide) | 7.13 mmol, 3.00 g | NC1=CC(=C(C(=O)N)C=C1SSC=1C(=CC(=C(C(=O)N)C1)[N+](=O)[O-])N)[N+](=O)[O-] | C14H12N6O6S2
reactant | HCl | Cl | ClH
solvent | MeOH | 60 mL | CO | CH4O
product | 4-amino-5-mercapto-2-nitrobenzamide | NC1=CC(=C(C(=O)N)C=C1S)[N+](=O)[O-] | C7H7N3O3S
